US05382590
The procedure is analogous to that described in Example 1, but 2.6 g of 2-(2-amino-N-phenylacetamido)-N-(4-fluorophenyl)-N-methylacetamide and 1.1 g of 3-methylphenyl isocyanate are used as the starting material. The crude product obtained is purified by chromatography on 60 g of silica (0.065-0.200 mm) contained in a column 2.0 cm in diameter [eluent: ethyl acetate/cyclohexane (50-50 by volume)], collecting 30 cm3 fractions. Fractions 6 to 10 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from ethyl acetate, 1.8 g of N-(4-fluorophenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide melting at 135° C is obtained.

reactant | 2-(2-amino-N-phenylacetamido)-N-(4-fluorophenyl)-N-methylacetamide | 2.6 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C)C1=CC=C(C=C1)F | C17H18FN3O2
reactant | 3-methylphenyl isocyanate | 1.1 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-(4-fluorophenyl)-N-methyl-2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}acetamide | 1.8 g | FC1=CC=C(C=C1)N(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C | C25H25FN4O3
